US05173496
A solution of sodium hydroxide (4.13 g) in water (80 ml) was added to a solution of N-(1-naphthylmethyl)-2-nitrobenzamide (7.6 g) in methanol (60 ml). Zinc powder (3.35 g) was then added to the mixture which was heated under reflux for 24 hours. After cooling, the zinc residue was separated by filtration and the methanol was partially evaporated. The residual solution was then adjusted to pH7 with hydrochloric acid. The precipitated solid was collected, dried and purified by column chromatography, eluting with methylene chloride/ether/methanol (50/50/5 v/v) to give 1,2-dihydro-2-(1-naphthylmethyl)-3H-indazol-3-one (3.0 g), as a white solid after washing with acetone, m.p. 198-200° C. (acetone/ether).

reactant | sodium hydroxide | 4.13 g | [OH-].[Na+]
reactant | N-(1-naphthylmethyl)-2-nitrobenzamide | 7.6 g | C1(=CC=CC2=CC=CC=C12)CNC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C18H14N2O3
solvent | water | 80 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
catalyst | Zinc | 3.35 g | [Zn] | Zn
product | 1,2-dihydro-2-(1-naphthylmethyl)-3H-indazol-3-one | 3.0 g | C1(=CC=CC2=CC=CC=C12)CN1NC2=CC=CC=C2C1=O | C18H14N2O
